US04113807
The reaction of triphenyl phosphite with alkyl and benzyl iodides is shown in 48 C.A. 10538c (1954) and 49 C.A. 9541b (1955). The reaction of trimethyl phosphite with an equimolar quantity of iodobenzene to give a 38% yield of dimethyl phenylphosphonate is shown in 58 C.A. 10231g (1963).

reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | dimethyl phenylphosphonate | 38% yield | C1(=CC=CC=C1)P(OC)(OC)=O | C8H11O3P
